US04080505
Isopropanol solution of aluminum isopropoxide is added to an aqueous isopropanol solution of 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionic acid to give aluminum 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)-phenyl]propionate. Melting point: 220°-230° C

reactant | aluminum isopropoxide | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionic acid | ClC(C(=O)O)CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C | C19H21ClO3
solvent | isopropanol | C(C)(C)O | C3H8O
product | aluminum 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)-phenyl]propionate | ClC(C(=O)[O-])CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C.[Al+3].ClC(C(=O)[O-])CC1=CC=C(C=C1)OCC(C)(C)C1=CC=CC=C1.ClC(C(=O)[O-])CC1=CC=C(C=C1)OCC(C)(C)C1=CC=CC=C1 | InChI=1S/3C19H21ClO3.Al/c3*1-19(2,15-6-4-3-5-7-15)13-23-16-10-8-14(9-11-16)12-17(20)18(21)22;/h3*3-11,17H,12-13H2,1-2H3,(H,21,22);/q;;;+3/p-3
